US08455477B2
6-bromo-4-methoxypyrazolo[1,5-a]pyridine (500 mg, 2.20 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1375 mg, 6.61 mmol), tetrakis(triphenylphosphine)palladium (0) (254 mg, 0.220 mmol), and sodium carbonate (700 mg, 6.61 mmol) were suspended in a mixture of 1,4-dioxane (19.8 ml) and water (2.2 ml). The mixture was sparged with argon for 10 minutes, then heated to 90° C. After 2 h, the reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (methanol/ethyl acetate gradient) to give 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine as a tan solid contaminated with trace amounts of triphenylphosphine oxide. Analytically pure material could be obtained by purification by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA.

reactant | 6-bromo-4-methoxypyrazolo[1,5-a]pyridine | 2.20 mmol, 500 mg | BrC=1C=C(C=2N(C1)N=CC2)OC | C8H7BrN2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 6.61 mmol, 1375 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | sodium carbonate | 6.61 mmol, 700 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 19.8 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.2 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.220 mmol, 254 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2 | C12H12N4O
